US08293913B2
tert-butyl 5-(3-(3-(5-(tert-butoxycarbonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate
The title compound was prepared by analogy to the procedure of 1.3, except using tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate and 3-(3-bromophenylsulfonyl)-8-iodoquinoline. 18 mg (12%) of the title compound were obtained as a pale yellow solid.

reactant | tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | C1N(CC2C1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
reactant | 3-(3-bromophenylsulfonyl)-8-iodoquinoline | BrC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)I | C15H9BrINO2S
product | tert-butyl 5-(3-(3-(5-(tert-butoxycarbonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 18 mg, 12% | C(C)(C)(C)OC(=O)N1CC2C(C1)CN(C2)C=2C=C(C=CC2)S(=O)(=O)C=2C=NC1=C(C=CC=C1C2)N2CC1C(C2)CN(C1)C(=O)OC(C)(C)C | C37H47N5O6S
